US06147088
Step 10B 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-1H-quinolin-2-one
To a solution of 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-benzoic acid methyl ester (3.05 g in 20 mL dry tetrahydrofuran) at 0° C. was added dropwise a solution of sodium bis(trimethylsilyl)amide (20 mL of a 1.0M solution in tetrahydrofuran) and the mixture warmed to room temperature. After 2 hours, the reaction was cooled to 0° C. and quenched by the addition of 100 mL iced 6N hydrochloric acid. The slurry was stirred for 15 minutes then filtered and washed (2×) with ice cold acetonitrile. The residue was dried in vacuo overnight to give the title compound (2.3 g).

reactant | 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-benzoic acid methyl ester | 20 mL, 3.05 g | COC(C1=C(C=C(C=C1)Cl)NC(CC1=CC(=CC(=C1)C)C)=O)=O | C18H18ClNO3
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-1H-quinolin-2-one | 2.3 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O | C17H14ClNO2
